US05958942
i) Synthesis of 4,5-dihydro-4-[2-(piperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride
To a solution prepared by dissolving 2.88 g (7.49 mM) of 4,5-dihydro-4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one in 30 ml of ethanol was added 6.25 ml (74.9 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and the precipitate was recovered by filtration. The precipitate was rinsed with small amounts of ethanol and ether to provide 2.13 g (yield 79.8%) of the title compound as light-yellow crystals.

reactant | 4,5-dihydro-4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one | 7.49 mM, 2.88 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1C(C2=CN=C3C=CC=C(C1)N32)=O | C21H28N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-[2-(piperidin-4-yl)ethan-1-yl]-3H-1,4,8b-triazaacenaphthylen-3-one dihydrochloride | 2.13 g, yield 79.8% | Cl.Cl.N1CCC(CC1)CCN1C(C2=CN=C3C=CC=C(C1)N32)=O | InChI=1S/C16H20N4O.2ClH/c21-16-14-10-18-15-3-1-2-13(20(14)15)11-19(16)9-6-12-4-7-17-8-5-12;;/h1-3,10,12,17H,4-9,11H2;2*1H
